Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___:  CABG x 4 (LIMA>LAD, OM1, OM2, RCA) 

 
History of Present Illness:
___ old male that looks younger for his years. In Janurary of 
this year he developed exertional chest pain with snow blowing. 
This chest pain presisted but only with exertion. He underwent 
cardiac work-up, elective cardiac cath
today showed significant CAD and was referred to cardiac surgery
at ___ for CABG evaluation.

 
Past Medical History:
Cerumen impaction
Arthritis bilateral knees
Microscopic Hematuria
Lead exposure
Obesity
Hyperlipidemia
Hyptertension
Borderline diabetes
Skin cancer nose
HOH left ear

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Admission PE:
Pulse:66 Resp:18  O2 sat: 98% RA
B/P  Right: cath site   Left:154/88 
Height:5ft 10"     Weight:229lbs

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender [x] bowel sounds

Extremities: Warm 
Neuro: Grossly intact [x]
Pulses:
Femoral      Right:+1   Left:+1
DP           Right:Trace   Left:trace
___           Right:+1   Left:+1
Radial       Right:cath   Left:+1

Carotid Bruit        Right: +   Left:+

Discharge Exam:
General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Sternum: 
Heart: RRR [x]  Irregular []  Murmur [] grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender [x] bowel sounds

Extremities: Warm 
Left leg vein site: 
Neuro: Grossly intact [x]
Pulses:
DP           Right:Trace   Left:trace
___           Right:+1   Left:+1
Radial       Right:cath   Left:+1

 
Pertinent Results:
Echocardiogram: ___
LEFT ATRIUM: No spontaneous echo contrast is seen in the ___. 
RIGHT ATRIUM/INTERATRIAL SEPTUM: Normal interatrial septum. 
LEFT VENTRICLE: Low normal LVEF. 
RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 
AORTA: Mildly dilated ascending aorta. Simple atheroma in 
descending aorta. 
AORTIC VALVE: Normal aortic valve leaflets (3). No AS. No AR. 
MITRAL VALVE: Mildly thickened mitral valve leaflets. Mild (1+) 
MR. 
___ VALVE: Physiologic TR. 
PULMONIC VALVE/PULMONARY ARTERY: Physiologic (normal) PR. 

PERICARDIUM: No pericardial effusion. 

Conclusions  
Pre-CPB:
No spontaneous echo contrast is seen in the left atrial 
appendage. 
Overall left ventricular systolic function is low normal (LVEF 
50-55%). 
Right ventricular chamber size and free wall motion are normal. 
The ascending aorta is mildly dilated. There are simple atheroma 
in the descending thoracic aorta. 
The aortic valve leaflets (3) appear structurally normal with 
good leaflet excursion and no aortic stenosis or aortic 
regurgitation. 
The mitral valve leaflets are mildly thickened. Mild (1+) mitral 
regurgitation is seen. 
There is no pericardial effusion. 

Post-CPB:
Intact thoracic aorta. Preserved biventricular systolic 
function. LVEF 55%. No other new findings.   

Chest film: ___
The cardiac silhouette is within upper limits of normal 
in size.  No evidence of vascular congestion, pleural effusion, 
or acute focal pneumonia. 

PA/LAT CXR ___:  
Right jugular catheter ends at the cavoatrial junction.  No 
evidence of 
pneumothorax.  Cardiomediastinal borders are within normal range 
for 
postoperative status of patient.  Mild bibasilar atelectasis, 
more pronounced on the left and right, has improved from 
___.  Blunting of the posterior sulci of the both 
diaphragmatic surface representing small bilateral pleural 
effusions. 
  
IMPRESSION:  Improved bibasilar atelectasis from ___.  Small 
bilateral pleural 
effusions. 

LABS:
Admission:

___ 03:00PM BLOOD WBC-6.2 RBC-4.44* Hgb-13.7 Hct-39.9* 
MCV-90 MCH-30.9 MCHC-34.3 RDW-12.6 RDWSD-40.9 Plt ___
___ 04:46PM BLOOD WBC-18.0*# RBC-3.68* Hgb-11.4* Hct-32.9* 
MCV-89 MCH-31.0 MCHC-34.7 RDW-12.7 RDWSD-41.5 Plt ___
___ 03:00PM BLOOD ___ PTT-28.7 ___
___ 03:00PM BLOOD Glucose-152* UreaN-23* Creat-1.4* Na-139 
K-4.4 Cl-104 HCO3-25 AnGap-14
___ 03:00PM BLOOD ALT-45* AST-28 AlkPhos-71 Amylase-69 
TotBili-1.0
___ 03:00PM BLOOD Lipase-47
___ 03:00PM BLOOD TotProt-7.2 Albumin-4.4 Globuln-2.8 
Mg-1.8

Discharge:

___ 06:35AM BLOOD WBC-7.2 RBC-3.41* Hgb-10.5* Hct-31.2* 
MCV-92 MCH-30.8 MCHC-33.7 RDW-13.2 RDWSD-43.6 Plt ___
___ 04:46PM BLOOD WBC-18.0*# RBC-3.68* Hgb-11.4* Hct-32.9* 
MCV-89 MCH-31.0 MCHC-34.7 RDW-12.7 RDWSD-41.5 Plt ___
___ 05:39PM BLOOD ___ PTT-26.5 ___
___ 06:35AM BLOOD Glucose-157* UreaN-39* Creat-1.3* Na-141 
K-4.1 Cl-103
___ 03:06AM BLOOD Glucose-176* UreaN-34* Creat-1.4* Na-138 
K-3.9 Cl-102 HCO3-27 AnGap-13
___ 03:50PM BLOOD Glucose-153* UreaN-21* Creat-1.4* Na-138 
K-4.1 Cl-103 HCO3-24 AnGap-15
___ 03:00AM BLOOD ALT-35 AST-43* AlkPhos-54 Amylase-47 
TotBili-0.6
___ 06:35AM BLOOD Mg-2.4
 
Brief Hospital Course:
Mr. ___ was brought to the Operating Room on ___ where he 
underwent CABG x 4 (LIMA>LAD, OM1, OM2, RCA). Coronary Artery 
ByPass time 75 minutes, Cross-clamp time 66 minutes.  Overall 
the patient tolerated the procedure well and post-operatively 
was transferred to the CVICU in stable condition for recovery 
and invasive monitoring. POD 1 found the patient extubated, 
alert and oriented and breathing comfortably.  The patient was 
neurologically intact and hemodynamically stable, weaned from 
inotropic and vasopressor support.  Beta blocker was initiated 
and the patient was gently diuresed toward the preoperative 
weight.  The patient was transferred to the telemetry floor for 
further recovery.  Chest tubes and pacing wires were 
discontinued without complication. He was seen by ___ for 
elevated blood-sugars. He has been started on glipizide, 
metformin and daily lantus.  He was given diabetes education by 
the ___ educator and will need follow up with ___ within a 
week with plan for eventual lantus wean to just oral diabetic 
medications.  The patient was evaluated by the physical therapy 
service for assistance with strength and mobility.  By the time 
of discharge on POD 4 the patient was ambulating freely, the 
wound was healing and pain was controlled with oral analgesics.  
The patient was discharged home with ___ in good condition with 
appropriate follow up instructions.

 
Medications on Admission:
1. Atenolol 100 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Pravastatin 20 mg PO QPM 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Fish Oil (Omega 3) 1200 mg PO BID 
7. Vitamin D 1000 UNIT PO DAILY 
8. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Pravastatin 20 mg PO QPM 
3. Vitamin D 1000 UNIT PO DAILY 
4. GlipiZIDE XL 5 mg PO DAILY 
RX *glipizide [Glucotrol XL] 5 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0
5. Metoprolol Tartrate 37.5 mg PO TID 
RX *metoprolol tartrate 25 mg 1.5 tablet(s) by mouth three times 
a day Disp #*150 Tablet Refills:*0
6. MetFORMIN (Glucophage) 500 mg PO BID 
RX *metformin 500 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0
7. Ranitidine 150 mg PO BID 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
8. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*50 Tablet Refills:*0
9. Furosemide 40 mg PO DAILY Duration: 7 Days 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*7 Tablet 
Refills:*0
10. Glargine 20 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
RX *blood sugar diagnostic [OneTouch Ultra Test]  test twice a 
day Disp #*60 Strip Refills:*0
RX *insulin glargine [Lantus Solostar] 100 unit/mL (3 mL) AS DIR 
20 Units before BKFT; Disp #*2 Syringe Refills:*0
RX *lancets [OneTouch Delica Lancets] 30 gauge test twice a day 
Disp #*60 Each Refills:*0
11. Potassium Chloride 20 mEq PO DAILY Duration: 7 Days 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth daily Disp 
#*7 Tablet Refills:*0
12. Hydrochlorothiazide 25 mg PO DAILY 
resume when furosemide course is complete 
13. BD Ultra-Fine Nano Pen Needles (pen needle, diabetic) 32 
gauge x ___ miscellaneous DAILY 
RX *pen needle, diabetic [BD Ultra-Fine Nano Pen Needles] 32 
gauge X ___ lantus daily Disp #*1 Box Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease s/p  CABG x 4 (LIMA>LAD, OM1, OM2, RCA)  

Cerumen impaction
SOB
Arthritis bilateral knees
Microscopic Hematuria
Lead exposure
Obesity
Hyperlipidemia
Hyptertension
Borderline diabetes
Skin cancer nose
HOH left ear

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Left leg vein incsion - healing well, no erythema or drainage
Edema 1+ BLE

 
Discharge Instructions:
1. Please shower daily including washing incisions gently with 
mild soap, no baths or swimming, and look at your incisions
2). Please NO lotions, cream, powder, or ointments to incisions
3). Each morning you should weigh yourself and then in the 
evening take your temperature, these should be written down on 
the chart
4). No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
5). No lifting more than 10 pounds for 10 weeks
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___